US06821980B1
The 1-thiomorpholin-4-yl-2-(5-trimethylstannanyl-thiophen-2-ylmethoxy)-ethanone employed is prepared analogously to example (3a) (stage b)) starting from (5-trimethylstannanyl-thiophen-2-yl)-methanol (7.66 g; 27.67 mmol; described, in example (3a), stage a)), sodium iodide (4.07 g; 27.34 mmol) and 2-chloro-1-thiomorpholiri-4-yl-ethanone (5.92 g; 32.94 mmol)

reactant | (5-trimethylstannanyl-thiophen-2-yl)-methanol | C[Sn](C1=CC=C(S1)CO)(C)C
reactant | sodium iodide | 27.34 mmol, 4.07 g | [I-].[Na+]
reactant | 2-chloro-1-thiomorpholiri-4-yl-ethanone | 32.94 mmol, 5.92 g | ClCC(=O)N1CCSCC1 | C6H10ClNOS
product | 1-thiomorpholin-4-yl-2-(5-trimethylstannanyl-thiophen-2-ylmethoxy)-ethanone | N1(CCSCC1)C(COCC=1SC(=CC1)[Sn](C)(C)C)=O | InChI=1S/C11H14NO2S2.3CH3.Sn/c13-11(12-3-6-15-7-4-12)9-14-8-10-2-1-5-16-10;;;;/h1-2H,3-4,6-9H2;3*1H3;
